US08461161B2
To a solution of (R)-2-chloro-6-(1-(3-nitrophenyl)ethoxy)pyrazine (240 mg, 0.86 mmol) in ethanol (12 mL) was added a solution of ammonium chloride (460 mg, 8.6 mmol) in water (6 mL), then indium powder (394 mg, mesh 100, 3.4 mmol). The mixture was heated at reflux for 20 hours, was allowed to cool to room temperature and was filtered through Celite. The filter cake was washed with ethanol and the combined filtrates were concentrated under reduced pressure. The residue was dissolved in ethyl acetate (25 mL) and was washed with water (15 mL), brine (15 mL), dried (Na2SO4) and concentrated under reduced pressure to give (R)-3-(1-(6-chloropyrazin-2-yloxy)ethyl)aniline as a dark yellow liquid (160 mg).

reactant | (R)-2-chloro-6-(1-(3-nitrophenyl)ethoxy)pyrazine | 0.86 mmol, 240 mg | ClC1=NC(=CN=C1)O[C@H](C)C1=CC(=CC=C1)[N+](=O)[O-] | C12H10ClN3O3
reactant | ammonium chloride | 8.6 mmol, 460 mg | [Cl-].[NH4+]
reactant | indium | 3.4 mmol, 394 mg | [In] | In
solvent | ethanol | 12 mL | C(C)O | C2H6O
solvent | water | 6 mL | O | H2O
product | (R)-3-(1-(6-chloropyrazin-2-yloxy)ethyl)aniline | 160 mg | ClC1=CN=CC(=N1)O[C@H](C)C=1C=C(N)C=CC1 | C12H12ClN3O
